US07034039B2
A solution of 4-fluorophthalic anhydride (8.31 g, 50 mmol) and ethyl 2-(neopentylamino)acetate (10.40 g, 60 mmol) in tetrahydrofuran (50 ml) was stirred at room temperature for 1 h. The reaction mixture was poured into water and extracted with ethyl acetate. The extract was washed with brine, dried over anhydrous magnesium sulfate and concentrated under reduced pressure. The residue was dissolved in N,N-dimethylformamide (50 ml), and potassium carbonate (6.91 g, 50 mmol) and ethyl iodide (4.8 ml, 60 mmol) were added. The mixture was stirred at room temperature for 3 h. The reaction mixture was poured into water and extracted with ethyl acetate. The extract was washed with brine, dried over anhydrous magnesium sulfate and concentrated under reduced pressure. The residue was dissolved in ethanol (50 ml) and 20% sodium ethoxide ethanol solution (34.04 g, 100 mmol) was added. The mixture was stirred at room temperature for 1 h. The reaction mixture was poured into 1N hydrochloric acid (150 ml) and extracted with ethyl acetate. The extract was washed with brine, dried over anhydrous magnesium sulfate and concentrated under reduced pressure. The residue, was purified by silica gel column chromatography and the component eluted earlier was concentrated to give ethyl 7-fluoro-4-hydroxy-2-neopentyl-1-oxo-1,2-dihydro-3-isoquinolinecarboxylate (5.12 g, 31.9%) as crystals.

reactant | 4-fluorophthalic anhydride | 50 mmol, 8.31 g | FC=1C=C2C(C(=O)OC2=O)=CC1 | C8H3FO3
reactant | ethyl 2-(neopentylamino)acetate | 60 mmol, 10.40 g | C(C(C)(C)C)NCC(=O)OCC | C9H19NO2
reactant | potassium carbonate | 50 mmol, 6.91 g | C([O-])([O-])=O.[K+].[K+]
reactant | ethyl iodide | 60 mmol, 4.8 ml | C(C)I | C2H5I
reactant | sodium ethoxide ethanol | 100 mmol, 34.04 g | C(C)O.[O-]CC.[Na+]
reactant | hydrochloric acid | 1N, 150 ml | Cl | ClH
solvent | tetrahydrofuran | 50 ml | O1CCCC1 | C4H8O
solvent | water | O | H2O
product | ethyl 7-fluoro-4-hydroxy-2-neopentyl-1-oxo-1,2-dihydro-3-isoquinolinecarboxylate | 5.12 g, 31.9% | FC1=CC=C2C(=C(N(C(C2=C1)=O)CC(C)(C)C)C(=O)OCC)O | C17H20FNO4
